US06025387
3',5,7-trihydroxy-4'-methoxy flavone
Preparation of 3',5,7-trihydroxy-4'-methoxy flavone 3',7-dibenzyloxy-4',5-dimethyl flavone(400 mg, 0.81 mmol) was dissolved in 12 mL of methylenechloride, and 1M of boron trichloride(2.7 mL) was added hereto at temperature of 0~5° C. Then the reaction mixture was stirred for 40 minutes.

reactant | 3',5,7-trihydroxy-4'-methoxy flavone 3',7-dibenzyloxy-4',5-dimethyl flavone | 0.81 mmol, 400 mg | C(C1=CC=CC=C1)OC=1C=C(C=2OC3=CC(=CC(=C3C(C2)=O)C)OCC2=CC=CC=C2)C=CC1C.OC=1C=C(C=2OC3=CC(=CC(=C3C(C2)=O)O)O)C=CC1OC
reactant | boron trichloride | 1M, 2.7 mL | B(Cl)(Cl)Cl | BCl3
solvent | methylenechloride | 12 mL | C(Cl)Cl | CH2Cl2
product | 3',5,7-trihydroxy-4'-methoxy flavone | OC=1C=C(C=2OC3=CC(=CC(=C3C(C2)=O)O)O)C=CC1OC | C16H12O6
